US07189738B2
N-{2-[2-(1-Acetyl-4-piperidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide
At room temperature, 17 μl (0.24 mmol) of acetyl chloride are added dropwise to a solution of 50 mg (0.12 mmol) of 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide and 0.1 ml of pyridine in 1 ml of absolute dichloromethane. After 1 h at room temperature, a few drops of water are added and the mixture is diluted with dichloromethane. The mixture is washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and concentrated. The crude product is purified by chromatography on silica gel (dichloromethane/methanol 98:2).

reactant | acetyl chloride | 0.24 mmol, 17 μl | C(C)(=O)Cl | C2H3ClO
reactant | 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | 0.12 mmol, 50 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCNCC1)=O | C20H20ClN3O3S
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | water | a few drops | O | H2O
product | N-{2-[2-(1-Acetyl-4-piperidinyl)ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide | C(C)(=O)N1CCC(CC1)CCN1C(C2=CC=CC(=C2C1=O)NC(=O)C=1SC(=CC1)Cl)=O | C22H22ClN3O4S
